US09289419B2
Synthesis of (3-aminocyclohexyl)methanol
LAH (107 mg, 2.8 mmol) was added portionwise to a solution of ethyl 3-aminocyclohexanecarboxylate (320 mg, 1.87 mmol) in THF (5 mL) at 0° C. and continued stirring at 25-30° C. for 15 h. The reaction mixture was quenched with aqueous saturated sodium sulphate solution, filtered the solid precipitate, washed the solid with THF; the filtrate collected was concentrated under reduced pressure to afford 200 mg of the title compound.

reactant | LAH | 2.8 mmol, 107 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 3-aminocyclohexanecarboxylate | 1.87 mmol, 320 mg | NC1CC(CCC1)C(=O)OCC | C9H17NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3-aminocyclohexyl)methanol | 200 mg | NC1CC(CCC1)CO | C7H15NO
